US06927303B2
According to the similar procedure in Synthesis Example 1, by using 5-amino-2-methylbenzoic acid (2.06 g, 15.0 mmole), DMF (60 ml), TEA (4 ml), and 2,3,5,6-tetrafluoro-4-trifluoromethylbenzyl bromide (5.52 ml, 17.7 mmole), 1.50 g (27.0% yield) of 2-methyl-5-(2,3,5,6-tetrafluoro-4-trifluoromethylbenzylamino)benzoic acid was obtained as a yellow solid.

reactant | 5-amino-2-methylbenzoic acid | 15.0 mmole, 2.06 g | NC=1C=CC(=C(C(=O)O)C1)C | C8H9NO2
reactant | 2,3,5,6-tetrafluoro-4-trifluoromethylbenzyl bromide | 17.7 mmole, 5.52 ml | FC1=C(CBr)C(=C(C(=C1F)C(F)(F)F)F)F | C8H2BrF7
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 2-methyl-5-(2,3,5,6-tetrafluoro-4-trifluoromethylbenzylamino)benzoic acid | 1.50 g, 27.0% yield | CC1=C(C(=O)O)C=C(C=C1)NCC1=C(C(=C(C(=C1F)F)C(F)(F)F)F)F | C16H10F7NO2
